US04154834
2,3-Dimethylpyridine is treated with bromine in oleum to give a 3-bromo-5,6-dimethylpyridine which is converted into a Grignard reagent, and this is treated with ethyl orthoformate and the product hydrolysed to give 5,6-dimethylpyridine-3-carboxaldehyde. This aldehyde is condensed with malonic acid and the product is hydrogenated and esterified to give ethyl β-(5,6-dimethyl-3-pyridyl)propionate. Substitution of this ester for ethyl β-(3-pyridyl)propionate in the procedure of Example 6 and fusion of the product with 2-(5-methyl-4-imidazolylmethylthio)ethylamine gives 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(5,6-dimethyl-3-pyridylmethyl)-4-pyrimidone.

reactant | 2,3-Dimethylpyridine | CC1=NC=CC=C1C | C7H9N
reactant | bromine | BrBr | Br2
solvent | oleum | OS(=O)(=O)O.O=S(=O)=O
product | 3-bromo-5,6-dimethylpyridine | BrC=1C=NC(=C(C1)C)C | C7H8BrN
